US07112638B2
Synthesis of 2-methyl-3-(4-methyl-5-phenyl-2-thienyl)-acrylic acid
A mixture of 2-formyl-4-methyl-5-phenylthiophene (20.2 g, 0.1 mol) and ethyl-2-bromopropionate (0.12 mol, 15.5 mL) was added to a suspension of Zn (7 g, 0.1 mol) in 150 mL of benzene with a catalytic amount of HgBr2. The resulting mixture was refluxed under stirring while all amount of Zn will not be dissolved, and subsequently dissolved in water. The organic layer was isolated, washed with a 10% aq. solution of HCl, dried over MgSO4 and evaporated off to dryness. The residue, corresponding to 2-methyl-3-(4-methyl-5-phenyl-2-thienyl)ethyl acrylate, was used without further purification in the synthesis of the related acid. In fact, it was added to a 30% aq. solution of sodium hydroxide in 100 mL of ethanol and refluxed for 2 h. The resulting reaction mixture was diluted in water, acidified and filtered. The precipitate was dried under P2O5. Yield 16.7 g (65%).

reactant | 2-formyl-4-methyl-5-phenylthiophene | 0.1 mol, 20.2 g | C(=O)C=1SC(=C(C1)C)C1=CC=CC=C1 | C12H10OS
reactant | ethyl-2-bromopropionate | 0.12 mol, 15.5 mL | C(C)OC(C(C)Br)=O | C5H9BrO2
solvent | benzene | 150 mL | C1=CC=CC=C1 | C6H6
solvent | water | O | H2O
catalyst | Zn | 0.1 mol, 7 g | [Zn] | Zn
catalyst | HgBr2 | [Hg](Br)Br
product | 2-methyl-3-(4-methyl-5-phenyl-2-thienyl)-acrylic acid | CC(C(=O)O)=CC=1SC(=C(C1)C)C1=CC=CC=C1 | C15H14O2S
